US09120777B2
D) 2-Cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-carbaldehyde
Manganese dioxide (10.8 g) was added to a toluene (30 mL) solution of (2-cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-yl)methanol (3.97 g), and the mixture was stirred at 60 C for 1 hour in a nitrogen atmosphere. The reaction mixture was filtered, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (3.53 g).

reactant | (2-cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-yl)methanol | 3.97 g | C1(CC1)C1=C(C=C(C(=C1)CO)OC(C)C)C1=C(C=C(C=C1)F)F | C19H20F2O2
catalyst | Manganese dioxide | 10.8 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-carbaldehyde | 3.53 g | C1(CC1)C1=C(C=C(C(=C1)C=O)OC(C)C)C1=C(C=C(C=C1)F)F | C19H18F2O2
